US05151420
6-[4-(1-(2,4-dihydroxyphenyl)-3-phenylpropylidene)aminophenyl]-4,5-dihydropyridazin-3(2H)one
A mixture containing 1.45 g of 1-(2,4-dihydroxyphenyl)3-phenyl-propan-1-one and 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one was heated for 72 h at 190° C. The product was treated with ethyl acetate, yield 0.37 g (16%), m.p. 208°-210° C.

reactant | 1-(2,4-dihydroxyphenyl)3-phenyl-propan-1-one | 1.45 g | OC1=C(C=CC(=C1)O)C(CCC1=CC=CC=C1)=O | C15H14O3
reactant | 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[4-(1-(2,4-dihydroxyphenyl)-3-phenylpropylidene)aminophenyl]-4,5-dihydropyridazin-3(2H)one | OC1=C(C=CC(=C1)O)C(CCC1=CC=CC=C1)=NC1=CC=C(C=C1)C=1CCC(NN1)=O | C25H23N3O3
